US06710043B1
To a solution of N-(piperidin-4-yl)-N′-(4-fluorophenyl)urea (0.3 g) in tetrahydrofuran (4 ml) were added in turn N,N-dimethylaminopyridine (0.23 g) and 4-fluorobenzenesulfonyl chloride (0.25 g) at 0° C. The mixture was allowed to warm to ambient temperature and stirred for 1 hour. The reaction mixture was taken up into a mixture of water and dichloromethane. The separated organic layer was washed in turn with hydrochloric acid (1N), aqueous sodium hydrogen carbonate, and brine, and dried over magnesium sulfate. Evaporation under reduced pressure gave a residue, which was triturated with diisopropyl ether to give N-(1-(4-fluorophenylsulfonyl)-piperidin-4-yl)-N′-(4-fluorophenyl)urea (0.468 g).

reactant | N-(piperidin-4-yl)-N′-(4-fluorophenyl)urea | 0.3 g | N1CCC(CC1)NC(=O)NC1=CC=C(C=C1)F | C12H16FN3O
reactant | 4-fluorobenzenesulfonyl chloride | 0.25 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | water | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | N-(1-(4-fluorophenylsulfonyl)-piperidin-4-yl)-N′-(4-fluorophenyl)urea | 0.468 g | FC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)NC(=O)NC1=CC=C(C=C1)F | C18H19F2N3O3S
